Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I'm not depressed, I'm not crazy, I just
sometimes have these thoughts that don't make sense"

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
IDENTIFICATION:
Mr. ___ is a ___ year old man with unspecified psychotic
disorder, no prior psychiatric hospitalizations/no outpatient
psychiatric providers, childhood obesity who presents to the ED
via EMS from his PCP's office on a 12 due to worsening symptoms
of psychosis, including paranoia and disorganization.

HISTORY OF PRESENT ILLNESS:
Per Dr. ___ ___ ED Initial Psychiatry Consult
note:

"Mr. ___ states that he often has thoughts that don't make 
sense
to him; he provides the following example about "a little boy
that was growing up in a neighborhood, he thought it was him, 
and
then this grown ass man became a killer and killed the little 
boy
(paraphrased)."  He says that these thoughts are strange and 
adds
"I'm not crazy, I'm not sick or anything, I just wanna be who I
am."  He denies having problems distinguishing reality from his
fantasy/dreams; says he would prefer to focus on reality rather
than fantasy.

Mr. ___ goes on to describe having anxiety regarding feeling as
though people might hurt him as he is out doing his errands,
etc., and that he gets this feeling based on the look they have
as they walk by him.  He sometimes feels like he "gets ready to
fight people, when in a certain mood."  He has concerns that "I
can't activate myself to defend myself" but also mentions 
needing
to "control himself in fantasy versus in reality."  He also says
that he has a lot of problems falling asleep because he keeps
thinking about "who would be in house trying to kill me, but
trying not to worry about that because it does not make sense to
me."  He says he gets about 10 hours of sleep every night, which
is not any more/less than usual.

When asked about his day to day life, he states he wakes up in
morning, eats breakfast, watches TV, but then goes to take a nap
pretty early in the day because he has problems focusing on TV
and his leisure activities due to unusual thoughts.  He cites
"eating food, snapchat, and social media" as his hobbies.  He
says he is hoping to get a job currently; he wanted to quit his
last job at ___ but was fired due to repeated tardiness.  
He
was in school at ___ but isn't anymore and wants to
restart classes to earn his associates degree; he fears "messing
up."

When asked about AH, Mr. ___ endorses "hearing voices" but says
they might be his own thoughts; he then adds "most of the voices
are premonitions of what people say to me in the future."  He
denies the voices telling him to ___ anything (but unclear 
because
he then starts saying "he just does things").

COLLATERAL:
Referral from Dr. ___:
___ year old male with h/o SCZ vs Schitzoeffective w/ chief
complaint of increasing voices, paranoid delusions, and fleeting
thoughts of self harm. Patient has refused formal psychiatric
evaluation in past, but compliant with home risperdone. Not
actively suicidal but psychotic and depressed much worse than
baseline despite med compliance. ___ done in clinic for
poor judgement based on psychosis. Recommend psych eval and
possible psych admission for medication adjustment/ tx of acute
psychosis." "

"Mr. ___ gave verbal permission for the team to talk with his
mother, ___, who is present in the ED.
Phone: ___
___ was provided with a summary of Mr. ___ presentation 
to
the ___ ED and an update of his progress while being in the 
ED.
___ states that for the past 1 month, Mr. ___ has been
depressed because he has been looking for a job and he is not
going to school.  She noticed his mood being more irritable
during this time as well, as he would yell at her for things 
that
would not normally bother him (like if he didn't ___ a chore she
asked him to); he would also isolate in his room..  
___ notes that last week, Mr. ___ approached her and told
her that he heard a voice, and then also said that he was 
feeling
like killing himself; she was unsure if the voice told him to
kill himself (says his aunt may know more about this as he is
more open with her).  He has been saying things like "nobody
loves me, everybody hates me," but she has not noticed him voice
any paranoid thoughts.
She has noted him to be talking to himself when in church and at
home, like there is somebody there with him.  Mr. ___ has also
been talking faster than normal and sometimes his train of
thought doesn't make sense to her or match the question she
asked.
___ states she cannot judge how much he is sleeping because
she often goes to bed before him and leaves before he wakes up;
he also isolates a lot.  She does note that when he takes his
medication he sleeps better, and thinks he is taking his
medication regularly."

In the ED, he did not receive prns per nursing - "he is very
sweet".

On interview today, he speaks quickly and repeats himself at
times -- " I came here, then I went home, and then I came here
and went home... I want better treatment.. I am not who I am.
People notice other things... I am not crazy.. I am scared" .
When asked about his mood, he states " I am trying to figure it
out my mood. I am trying to figure out who I am. What makes me
happy? what makes me mad?". 
Re: Sleep, he states he sleeps 10 hours a night. 
Re: energy and concentration, he feels he has a lot of energy 
and
denies difficultlies with concentration - "I f I need help with 
a
task, I ask for him". 
Re: Appetite, He eats well, but notes occasionally "I will eat
every second". 
Re: Hallucinations, he states "Sometimes, I see and hear things
that tell me to ___ things.. Sometimes it does not.. Sometimes I
go about my day". 
Re: SI/HI, he reports, "I thought a girl at my school would harm
me, but then I thought I would harm the girl, but I would not
harma a girl as I would be less than who I am.. some people 
would
call that gay". 

He denies difficulties with medication compliance. He
acknowledges that he is talking quickly, stating "thats who I am
now".  

REVIEW OF SYSTEMS:
Per Dr. ___ ___ ED Initial Psychiatry Consult
note:
-Psychiatric: 
---Depression: Denies symptoms of depression such as depressed
mood, fatigue/loss of energy, anhedonia, thoughts of death/SI,
sleep disturbance including insomnia or hypersomnia, loss of
appetite/weight changes, poor concentration, psychomotor
agitation or retardation.
---Anxiety: Denies symptoms of anxiety such as worry, 
rumination,
intrusive thoughts, avoidance, phobias, panic.
---Mania: Denies symptoms of mania such as distractibility,
erratic/risky behavior, grandiosity, flight of ideas, increased
activity, decreased need for sleep, or talkativeness/pressured
speech.  
---Psychosis: Denies symptoms of psychosis such as auditory or
visual hallucinations, or delusions of reference, paranoia,
thought insertion/broadcasting/withdrawal.
-General: Denies physical complaints.

 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
[Extracted from Dr. ___ ___ ED Initial
Psychiatry Consult note, reviewed with patient, and updated as
appropriate.]
-Prior diagnoses: Schizophrenia
-Hospitalizations: Denies
-Psychiatrist: ___ had one in ___ during high school
-Therapist: During high school, said therapist "Mr. ___ 
___
would sometime come to his house"
-Medication trials: Only risperidone and benztropine
-___ trials: Denies
-Suicide attempts: Denies
-Self-injurious behavior: Denies
-Harm to others: Denies
-Trauma: Denies
-Access to weapons: Denies

PAST MEDICAL HISTORY:
[Extracted from Dr. ___ ___ ED Initial
Psychiatry Consult note, reviewed with patient, and updated as
appropriate.]
**PCP: : ___ 
-Denies any history of or active medical problems (None per
notes) 

 
Social History:
SUBSTANCE USE HISTORY:
[Extracted from Dr. ___ ___ ED Initial
Psychiatry Consult note, reviewed with patient, and updated as
appropriate.]
-Tobacco: Denies
-Alcohol: 1 drink on special occasions only
-Marijuana: Denies
-Opioids/Heroin: Denies
-Benzos: Denies
-Cocaine: Denies
-Amphetamines/speed: Denies
-Other Drugs: Denies

FORENSIC HISTORY:
[Extracted from Dr. ___ ___ ED Initial
Psychiatry Consult note, reviewed with patient, and updated as
appropriate.]
-Arrests: Denies
-Convictions and jail terms: Denies
-Current status (pending charges, probation, parole): Denies

SOCIAL HISTORY:
[Extracted from Dr. ___ ___ ED Initial
Psychiatry Consult note, reviewed with patient, and updated as
appropriate.]
-Born/Raised: Born at ___, raised in ___ lived in 
___
for ___ years during high school but returned to ___ upon
graduation
-Family: Just him and his mother growing up and now; father not
involved (still lives in ___, no siblings; mother is very
religious and may also have mental illness/schizophrenia
-Relationship status/Children: Single, no children
-Primary Supports: Mom, aunt, uncle, cousins
-___: Lives with mother in ___
-Education: Graduated from ___, started college at ___ and
transferred to ___, attended ___ until ___, has not yet earned associates degree but plans to return 
to
___ _ to ___ so 
-Employment/Income: Unemployed, previously worked at ___ 
but
lost this job due to repeated tardiness
-Spiritual: Raised ___, not currently practicing
-Military History: ___
Family History:
FAMILY PSYCHIATRIC HISTORY:
[Extracted from Dr. ___ ___ ED Initial
Psychiatry Consult note, reviewed with patient, and updated as
appropriate.]
-Psychiatric Diagnoses: Mother seeing demons/thinks she has
schizophrenia
-Substance Use Disorders: Denies
-Suicide Attempts/Completed Suicides: Denies

 
Physical Exam:
VITAL SIGNS:
97.6  74   103/71   16   99% RA 
 
EXAM:

General:
-HEENT: Normocephalic, atraumatic.  Moist mucous membranes,
oropharynx clear, supple neck.  No scleral icterus.
-Cardiovascular: Regular rate and rhythm, S1/S2 heard, no
murmurs/rubs/gallops. 
-Pulmonary: No increased work of breathing.  Lungs clear to
auscultation bilaterally.  No wheezes/rhonchi/rales.
-Abdominal: Non-distended, bowel sounds normoactive.  No
tenderness to palpation in all quadrants.  No guarding, no
rebound tenderness.
-Extremities: Warm and well-perfused.  No edema of the limbs.
-Skin: No rashes or lesions noted.

Neurological:
-Cranial Nerves:
---I: Olfaction not tested.
---II: PERRL 3 to 2mm, both directly and consentually; brisk
bilaterally.  VFF to confrontation.
---III, IV, VI: EOMI without nystagmus
---V: Facial sensation intact to light touch in all 
distributions
---VII: No facial droop, facial musculature symmetric and ___
strength in upper and lower distributions, bilaterally
---VIII: Hearing intact to finger rub bilaterally
---IX, X: Palate elevates symmetrically
---XI: ___ strength in trapezii and SCM bilaterally
---XII: Tongue protrudes in midline
-Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength ___ throughout.
-Sensory: No deficits to fine touch throughout
-DTRs: 2 and symmetrical throughout. Downgoing toes. 
Coordination: Normal on finger to nose test, no intention tremor
noted
-Gait: Good initiation.  Narrow-based, normal stride and arm
swing. 

-Appearance: ___ man appearing stated age, well
groomed, fair hygiene, wearing hospital gown, in no apparent
distress
-Behavior: Sitting up in bed, appropriate eye contact, no
psychomotor agitation or retardation. Giggling during formal
motor testing. 
-Attitude: Cooperative, engaged, friendly
-Mood: "I'm not depressed"
-Affect: Mood-congruent,  mildly restricted range, appropriate 
to
situation 
-Speech: Pressured speech, normal volume and tone
-Thought process: Tangential, +flight of ideas. Disorganized,
loose associations. Able to be interrupted and re-directed with
questions.
-Thought Content:
---Safety: Endorses SI/HI
---Delusions: Endorses paranoia delusions
---Obsessions/Compulsions: No evidence based on current 
encounter
---Hallucinations: Endorses AVH, not attending to
internal stimuli
-Insight: Limited
-Judgment: Limited

Cognition: 
-Wakefulness/alertness: Awake and alert
-Attention: MOYb with 0 errors
-Orientation: Oriented to person, time (___),
place ("BI ED"), situation
-Executive function (go-no go, Luria, trails, FAS): Not tested
-Memory: ___ registration, ___ recall after 5 ___
memory grossly intact
-Fund of knowledge: Consistent with education; intact to last 3
presidents (says "Trump, Obama, ___
-Calculations: 7 quarters = "$1.75"
-Abstraction: Interprets "the grass is always greener on the
other side" as "sometimes it's greener on the good side,
sometimes it gets darker on the green side" Per  Dr. ___.  Interprets "people in glass houses should not throw
stones" as ___ not judge a book by its cover". 
-Visuospatial: Not assessed
-Language: Native ___ speaker, no paraphasic errors,
appropriate to conversation

====================================================
Discharge Exam: 
Appearance: ___ man appearing stated age, well
groomed, good hygiene, casual clothes, in no apparent distress
-Behavior: Sitting up in chair, awake, eyes open while
speaking, no psychomotor agitation or retardation. 
-Attitude: good attitude
-Mood: "fine"
-Affect: Mood-congruent,  mildly restricted range, appropriate 
to
situation 
-Speech: normal speech, normal volume and tone
-Thought process: Improved, linear, more contained. No loose
associations.
-Thought Content:
---Safety: Denies SI/HI
---Delusions: no delusions 
---Obsessions/Compulsions: No evidence based on current 
encounter
---Hallucinations: denies AVH, not attending to internal stimuli
-Insight: fair
-Judgment: fair
Cognition: 
-Wakefulness/alertness: awake, alert, interactive
-Attention: attentive to interview, interactive
-Orientation: Oriented to person, time, place, situation
-Executive function (go-no go, Luria, trails, FAS): Not assessed
-Memory: Not formally assessed but intact to interview
-Language: Native ___ speaker, no paraphasic errors,
appropriate to conversation

 
Pertinent Results:
___ 06:40PM BLOOD WBC-8.2 RBC-5.66 Hgb-14.2 Hct-44.6 
MCV-79* MCH-25.1* MCHC-31.8* RDW-13.8 RDWSD-39.3 Plt ___
___ 03:35AM BLOOD WBC-11.1* RBC-5.01 Hgb-12.5* Hct-40.5 
MCV-81* MCH-25.0* MCHC-30.9* RDW-14.3 RDWSD-41.3 Plt ___
___ 06:40PM BLOOD Neuts-57.5 ___ Monos-9.1 Eos-1.0 
Baso-0.6 Im ___ AbsNeut-4.71 AbsLymp-2.57 AbsMono-0.75 
AbsEos-0.08 AbsBaso-0.05
___ 03:35AM BLOOD Neuts-58 Bands-0 ___ Monos-9 Eos-0 
Baso-1 ___ Myelos-0 AbsNeut-6.44* AbsLymp-3.55 
AbsMono-1.00* AbsEos-0.00* AbsBaso-0.11*
___ 03:35AM BLOOD Hypochr-NORMAL Anisocy-NORMAL 
Poiklo-NORMAL Macrocy-NORMAL Microcy-2+* Polychr-NORMAL
___ 06:40PM BLOOD Plt ___
___ 03:35AM BLOOD Plt Smr-NORMAL Plt ___
___ 06:40PM BLOOD Glucose-96 UreaN-13 Creat-1.1 Na-139 
K-3.7 Cl-99 HCO3-24 AnGap-16
___ 03:35AM BLOOD ALT-48* AST-28 AlkPhos-77 TotBili-<0.2
___ 03:35AM BLOOD Valproa-23*
___ 06:40PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 07:13AM URINE Color-Yellow Appear-Clear Sp ___
___ 07:13AM URINE Blood-NEG Nitrite-NEG Protein-30* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 07:13AM URINE RBC-<1 WBC-2 Bacteri-NONE Yeast-NONE 
Epi-0
___ 07:13AM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG
**FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 

___ 04:01AM BLOOD %HbA1c-5.5 eAG-111
___ 03:35AM BLOOD Triglyc-104 HDL-60 CHOL/HD-2.0 LDLcalc-36
___ 04:52AM BLOOD Valproa-42*
___ 04:52AM BLOOD Albumin-3.___. LEGAL & SAFETY:  
On admission, Mr. ___ was admitted on a ___, as he did 
not have the capacity to sign a CV on admission (to expire on 
___. On ___, He signed a conditional voluntary agreement 
(Section 10 & 11) and that legal status remained in place 
throughout admission.  Mr. ___ was also placed on 15 minute 
checks/5 minute overnight checks status on admission and 
remained on that level of observation throughout while being 
unit restricted. He was also restricted from back hallway 
without staff. During his stay, he stopped reporting sexual 
urges, and checks were liberalized to Q15 ___ throughout the day 
and night. 

2. PSYCHIATRIC:
#) He was admitted for mania, delusions, hallucinations, 
tangential and disorganized thoughts. On admission, his home 
risperidone was increased from 1 mg QHS to 2 mg BID and home 
benzotropine was increased from 0.5 mg qHS to 1 mg qHS. He was 
initiated on VPA for mood stabilization at 250 mg TID, 
uptitrated to 500 mg BID on ___, which he continued on until 
discharge. His VPA level on 500 mg BID was drawn incorrectly on 
___ at 3 am (level 23). He was initiated on Ativan 1 mg BID to 
decrease manic symptoms , the medication was tapered with time 
when mood has been stabilizing and psychotic symptoms subsided. 
He did not initially attend groups secondary to somnolence but 
after Ativan discontinued and somnolence improved, patient was 
attending groups and interactive. With team recommendations, he 
stayed awake during the day but did report some difficulty 
sleeping, staying awake socializing until late hours. His VPA 
level the day of discharge was 42, and albumin 3.5. Because of 
this slightly low VPA level and continued difficulty with sleep 
VPA was increased to 750QHS.

3. SUBSTANCE USE DISORDERS:
Mr. ___ does not have any substance use disorders, and 
therefore did not require any counseling or treatment in this 
regard.

4. MEDICAL
Mr. ___ was medically cleared in the ED; no acute  medical 
issues prevented admission to Deac 4.  Additionally, Mr. ___ 
has no chronic medical issues requiring attention.
#)Emesis on ___: Patient attributed this to over-eating of a 
fish dinner, but it could also be ___ to rapid titration of VPA, 
for which VPA level, CBC/diff and LFTs were checked. VPA level 
was drawn incorrectly and CBC/LFts were relatively unremarkable. 
There were no further episodes of emesis during hospitalization. 


5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
Mr. ___  was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  The 
occupational therapy and social work groups that focus on 
teaching patients various coping skills. 
He did not initially attend groups ___ to somnolence, but when 
somnolence improved he was attending groups and interactive. Mr. 
___ often attended these groups. Mr. ___ was visible on the 
milieu and appropriately interacted with staff and peers. He 
attended several groups ___ and reported feeling very 
expressive.

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT:
Mr. ___ gave verbal and written permission for the team to 
contact his outpatient PCP, ___ prescribed his 
outpatient psychiatric medications. She has been advocating for 
him to obtain a mental health team as an outpatient. His PCP was 
provided with a summary of Mr. ___ presentation to the ___ 
ED/Deac 4 and an update of her progress since admission on Deac 
4, and they provided collateral information and treatment 
recommendations.

Mr. ___ did not have either an outpatient psychiatrist or 
therapist while admitted on Deac 4, therefore there were no 
outside providers to be contacted.  Mr. ___ was set up with 
both an outpatient psychiatrist and therapist prior to 
discharge.

Mr. ___ gave verbal and written permission for the team to 
contact her/his family member, Mother (___), who was also 
given an update on Mr. ___ progress while admitted and 
discharge plan. A family meeting was held ___ to discuss 
circumstances of admission, update about progress, medication 
changes, as well as plan for discharge and after care. His aunt 
planned to pick him up at 10:30 on ___.

#) GUARDIANSHIP:

6. INFORMED CONSENT: 
*Medication: Risperdal (risperidone)
---Benefits: Treatment of obsessive thoughts, compulsive 
behaviors, and anxiety
---Adverse effects: Risk of developing diabetes/dyslipidemia, 
EPS, TD (rare), hyperprolactinemia, QTc prolongation, 
drowsiness, nausea, constipation, weight gain, orthostatic 
hypotension (rare)

*Medication: Cogentin (benztropine)
---Benefits: Reduce possibility of movement-related side effects 
of risperidone
---Adverse effects: Dry mouth, nausea, vomiting, urinary 
retention, confusion

*Medication: Depakote (valproate)
---Benefits: Mood stabilization
---Adverse effects: Headache, drowsiness/sedation, 
lightheadedness, insomnia, anxiety, nausea, vomiting, abdominal 
pain, reduced appetite, diarrhea, weight gain (common), 
thrombocytopenia, tremor, weakness, double vision, alopecia 
(unusual), *hepatotoxicity* (rare), *pancreatitis* (rare)

Mr. ___ was informed of alternative treatments, the 
consequences of no treatment, and the expected duration of 
treatment. He appeared to appreciate the information conveyed in 
the consent process by asking appropriate questions, which were 
answered by the treatment team, and expressing understanding of 
the potential risks and benefits (see above).  Prior to starting 
treatment, the team also discussed the patient's right to decide 
whether to take this medication as well as the importance of the 
patient's actively participating in the treatment.  Mr. ___ 
understood the above and consented to begin the medication.

7. RISK ASSESSMENT
On presentation, Mr. ___ was evaluated and felt to be at an 
increased risk of harm to himself. Mr. ___ static risk 
factors noted at that time include chronic mental illness, 
family history of mental illness,  male gender,  adolescent, 
single relationship status,  limited social supports, 
unemployment.  The modifiable risk factors identified were as 
such: psychosis, disorganized and unpredictable behavior, 
command AH, impulsiveness, recklessness, aggression/agitation, 
impulsivity, access to lethal weapons,  poorly controlled mental 
illness, lack of engagement with outpatient treatment, no 
established outpatient providers, social withdrawal, poor 
reality testing, hopelessness,  lack of purpose, psychic 
pain/turmoil, limited coping skills.  These modifiable risk 
factors were addressed with acute stabilization in a safe 
environment on a locked inpatient unit, psychopharmacologic 
adjustments, psychotherapeutic interventions (OT groups, SW 
groups, individual therapy meetings with psychiatrists), and 
presence on a social milieu environment.  Mr. ___ is being 
discharged with many protective factors, including  sense of 
responsibility to family,  strong social supports,  positive 
therapeutic relationship with outpatient PCP, medication 
compliance, no prior suicide attempts/self-injurious behavior, 
no chronic substance use, no access to lethal weapons.  Overall, 
based on the totality of our assessment at this time, Mr. ___ 
is not at an acutely elevated risk of harm to self nor danger to 
others. 

Our prognosis of this patient is Fair.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. RisperiDONE 2 mg PO QHS 
2. Benztropine Mesylate 0.5 mg PO QHS 

 
Discharge Medications:
1.  Divalproex (DELayed Release) 500 mg PO BID 
RX *divalproex [Depakote] 500 mg 1 tablet(s) by mouth twice a 
day Disp #*60 Tablet Refills:*0 
2.  Benztropine Mesylate 1 mg PO QHS 
RX *benztropine 1 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*0 
3.  RisperiDONE 2 mg PO BID 
RX *risperidone [Risperdal] 2 mg 1 tablet(s) by mouth twice a 
day Disp #*60 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
schizoaffective disorder, bipolar type, anxiety nos

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___